US09284298B2
A mixture of ethyl 3-acetyl-1H-pyrazole-5-carboxylate (364 mg, 2.0 mmol), (5-chloro-2-methylphenyl)boronic acid (680 mg, 4.0 mmol), copper(II) acetate (571 mg, 3.0 mmol) and pyridine (0.32 mL, 4 mmol) in DCM (10 mL) was stirred at r.t. under an air atmosphere for 48 h. After removal of the insolubles by filtration, the filtrate was washed with water and saturated brine, dried over anhydrous sodium sulfate, concentrated in vacuo and purified by flash chromatography (hexane/AcOEt, 90/10) to obtain ethyl 3-acetyl-1-(5-chloro-2-methylphenyl)-1H-pyrazole-5-carboxylate as a white solid (269 mg, 43%),

reactant | ethyl 3-acetyl-1H-pyrazole-5-carboxylate | 2.0 mmol, 364 mg | C(C)(=O)C1=NNC(=C1)C(=O)OCC | C8H10N2O3
reactant | (5-chloro-2-methylphenyl)boronic acid | 4.0 mmol, 680 mg | ClC=1C=CC(=C(C1)B(O)O)C | C7H8BClO2
reactant | pyridine | 4 mmol, 0.32 mL | N1=CC=CC=C1 | C5H5N
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | copper(II) acetate | 3.0 mmol, 571 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | ethyl 3-acetyl-1-(5-chloro-2-methylphenyl)-1H-pyrazole-5-carboxylate | 269 mg, 43% | C(C)(=O)C1=NN(C(=C1)C(=O)OCC)C1=C(C=CC(=C1)Cl)C | C15H15ClN2O3
